US08314094B2
2) Synthesis of 6-chloro-4-cyclopropyl-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
(2-Amino-5-chlorophenyl)(cyclopropyl)methanone (450 mg, 2.30 mmol) was dissolved in THF (5 mL), and while stirring the reaction solution at 0° C., vinyl magnesium bromide (1.0 M THF solution, 5.7 mL) was added dropwise thereto. The reaction solution was stirred overnight at room temperature, and then, a saturated aqueous ammonium chloride solution was added to the solution. After the solution was diluted with ethyl acetate, the organic layer was separated and washed with saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The resulting residue was dissolved in THF (5 mL), and 1,1-carbonyldiimidazole (CDI) (745 mg) was added thereto at room temperature. The reaction solution was stirred at room temperature for 2 hours, followed by ice-cooling, and water was added to the reaction solution. The solution was diluted with ethyl acetate and a saturated aqueous ammonium chloride solution was added thereto. The organic layer was separated and washed with saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/2), whereby 6-chloro-4-cyclopropyl-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (610 mg) was quantitatively obtained as a pale white solid.

reactant | (2-Amino-5-chlorophenyl)(cyclopropyl)methanone | 2.30 mmol, 450 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1CC1 | C10H10ClNO
reactant | vinyl magnesium bromide | 1.0 M, 5.7 mL | C(=C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-4-cyclopropyl-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | ClC=1C=CC2=C(C(OC(N2)=O)(C=C)C2CC2)C1 | C13H12ClNO2
